US06114390
b) (R)-N-[[4-(Aminocarbonylaminocarbonylaminomethyl)phenyl]-methyl]-N5 -[amino(nitroimino)methyl]-N2 -(diphenylacetyl)-ornithinamide
A mixture of 0.53 g (0.997 mMol) of (R)-N5 -[amino(nitroimino)-methyl]-N-[[4-(aminomethyl)phenyl]methyl]-N2 -(diphenylacetyl)-ornithinamide, 0.16 g (1.08 mMol) of nitrobiuret, 50 ml of methanol and 0.2 ml of diisopropylethylamine was refluxed for 5 hours with stirring. The same amount of nitrobiuret and diisopropylethylamine was added again and the mixture was refluxed for a further 3 hours. The crystals obtained after leaving the mixture to stand for 14 hours at ambient temperature were suction filtered, washed thoroughly with methanol and diethylether and dried in vacuo. 0.51 g (83% of theory) of colourless crystals were obtained, Mp. 214-218° C.

reactant | (R)-N5 -[amino(nitroimino)-methyl]-N-[[4-(aminomethyl)phenyl]methyl]-N2 -(diphenylacetyl)-ornithinamide | 0.997 mMol, 0.53 g | NC(NCCC[C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)NCC1=CC=C(C=C1)CN)=N[N+](=O)[O-] | C28H33N7O4
reactant | nitrobiuret | 1.08 mMol, 0.16 g | [N+](=O)([O-])NC(=O)NC(=O)N | C2H4N4O4
reactant | diisopropylethylamine | 0.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 50 ml | CO | CH4O
product | (R)-N-[[4-(Aminocarbonylaminocarbonylaminomethyl)phenyl]-methyl]-N5 -[amino(nitroimino)methyl]-N2 -(diphenylacetyl)-ornithinamide | NC(=O)NC(=O)NCC1=CC=C(C=C1)CNC([C@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCNC(=N[N+](=O)[O-])N)=O | C30H35N9O6
